US05026719
Propiconazole +Carbendazim 225SC (Suspension Concentrate
The DMMCS is dissolved in water followed by the ethoxylated polyaryl phenol phosphate and propiconazole. Using a magnetic stirrer, the silicone antifoam, carbendazine and fumed silica are dispersed into the solution. The suspension is then wet-milled to produce a fine suspension with an average particle size of less than 2 microns.

reactant | phenol phosphate | P(=O)(O)(O)OC1=CC=CC=C1 | C6H7O4P
reactant | 1-[2-(2,4-dichlorophenyl)-4-propyl-1,3-dioxolan-2-ylmethyl]-1H-1,2,4-triazole | ClC1=C(C=CC(=C1)Cl)C1(OCC(O1)CCC)CN1N=CN=C1 | C15H17Cl2N3O2
reactant | carbendazine | COC(=O)NC1=NC2=CC=CC=C2N1 | C9H9N3O2
solvent | water | O | H2O
product | Propiconazole Carbendazim | CCCC1COC(O1)(CN2C=NC=N2)C=3C=CC(=CC3Cl)Cl.COC(=O)NC=1NC=2C=CC=CC2N1 | InChI=1S/C15H17Cl2N3O2.C9H9N3O2/c1-2-3-12-7-21-15(22-12,8-20-10-18-9-19-20)13-5-4-11(16)6-14(13)17;1-14-9(13)12-8-10-6-4-2-3-5-7(6)11-8/h4-6,9-10,12H,2-3,7-8H2,1H3;2-5H,1H3,(H2,10,11,12,13)
